US07183280B2
1-Chloromethyl-3-methyl-isoquinoline-2-oxide
A solution of 300 mg of 1-chloromethyl-3-methyl-isoquinoline in 3 ml of methylene chloride is combined with 390 mg of 3-chloroperoxybenzoic acid and stirred overnight at ambient temperature. The reaction mixture is diluted with some methylene chloride and extracted with saturated sodium hydrogen carbonate solution. The combined organic phases are dried over magnesium sulphate and evaporated down. The solid, yellowish crude product is triturated with tert.-butylmethylether, suction filtered, washed with tert.-butylmethylether and dried.

reactant | 1-chloromethyl-3-methyl-isoquinoline | 300 mg | ClCC1=NC(=CC2=CC=CC=C12)C | C11H10ClN
reactant | 3-chloroperoxybenzoic acid | 390 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-Chloromethyl-3-methyl-isoquinoline-2-oxide | ClCC1=[N+](C(=CC2=CC=CC=C12)C)[O-] | C11H10ClNO
